US09102688B2
2-Nitro-4-trifluoromethoxy-benzenesulfonyl chloride (Intermediate 221)
In a similar fashion using route 3a general procedure 10, SOCl2 (0.36 ml, 4.95 mmol) in cold water (2 ml), CuCl (5 mg, 0.05 mmol), 2-nitro-4-(trifluoromethoxy)aniline (200 mg, 0.90 mmol), conc. HCl (2 ml), NaNO2 (90 mg, 1.3 mmol) in water (2 ml) gave the title compound (290 mg) which was used in the next step without further purification. The structure was confirmed by 1H NMR.

reactant | SOCl2 | 4.95 mmol, 0.36 ml | O=S(Cl)Cl | Cl2OS
reactant | 2-nitro-4-(trifluoromethoxy)aniline | 0.90 mmol, 200 mg | [N+](=O)([O-])C1=C(N)C=CC(=C1)OC(F)(F)F | C7H5F3N2O3
reactant | HCl | 2 ml | Cl | ClH
reactant | NaNO2 | 1.3 mmol, 90 mg | N(=O)[O-].[Na+]
solvent | water | 2 ml | O | H2O
solvent | water | 2 ml | O | H2O
catalyst | CuCl | 0.05 mmol, 5 mg | Cl[Cu]
product | 2-Nitro-4-trifluoromethoxy-benzenesulfonyl chloride | 290 mg | [N+](=O)([O-])C1=C(C=CC(=C1)OC(F)(F)F)S(=O)(=O)Cl | C7H3ClF3NO5S
